US06313122B1
A. 2-Nitro-N-(4-methylphenyl)benzamide
Using the procedure described in Example 93, Part A, 4-methylaniline (9.3 mmol) and 2-nitrobenzoyl chloride (10.3 mmol) yielded 1.55 g (65%) of the title compound.

reactant | 4-methylaniline | 9.3 mmol | CC1=CC=C(N)C=C1 | C7H9N
reactant | 2-nitrobenzoyl chloride | 10.3 mmol | [N+](=O)([O-])C1=C(C(=O)Cl)C=CC=C1 | C7H4ClNO3
product | 2-Nitro-N-(4-methylphenyl)benzamide | 1.55 g, 65% | [N+](=O)([O-])C1=C(C(=O)NC2=CC=C(C=C2)C)C=CC=C1 | C14H12N2O3
